US06894042B2
Methyl benzofuran-5-carboxylate (667 mg, 3.8 mmol) is dissolved in 20 ml CH2Cl2 in a flask under nitrogen. The solution is treated with Br2 (1.2 ml, 22.8 mmol), is layered with 20 ml saturated NaHCO3, and the reaction is stirred gently for 2 h at RT. The reaction is stirred vigorously for 30 min, the layers are separated, and the organic layer is concentrated in vacuo to an amber oil. The residue is dissolved in 30 ml EtOH, the solution is treated with anhydrous K2CO3 (3.15 g, 22.8 mmol), and the reaction is stirred vigorously overnight. The insoluble material is removed by filtration and the filtrate is diluted with 3 ml 3N NaOH and the mixture is stirred 3 h at RT. The mixture is concentrated in vacuo, the residue is dissolved in 10 ml H2O, and the pH of the solution is adjusted to 2 with 10% aqueous HCl. The precipitate is collected, washed with water, and is dried to afford 880 mg (96%) of 3-bromobenzofuran-5-carboxylic acid as an off-white solid. HRMS (FAB) calcd for C9H5BrO3+H: 240.9501, found 240.9505 (M+H)+.

reactant | Methyl benzofuran-5-carboxylate | 3.8 mmol, 667 mg | O1C=CC2=C1C=CC(=C2)C(=O)OC | C10H8O3
reactant | Br2 | 22.8 mmol, 1.2 ml | BrBr | Br2
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
reactant | K2CO3 | 22.8 mmol, 3.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-bromobenzofuran-5-carboxylic acid | 880 mg, 96% | BrC1=COC2=C1C=C(C=C2)C(=O)O | C9H5BrO3
